US05665271
50 ml (0.13 mols) of a THF solution of 2.5M of propylmagnesium bromide was dropped in a mixed solution of 44.5 g (0.1 mol) of 1-chloro-1-phenyl-4-(4-(3,5-difluoro-4-difluoromethoxyphenyl)butyl)-1-silacyclohexane and 300 ml of THF. After ordinary after-treatments, 4-(4-(3,5-difluoro-4-difluoromethoxyphenyl)butyl)-1-phenyl-1-propyl-1-silacyclohexane was obtained.

reactant | propylmagnesium bromide | 2.5M | C(CC)[Mg]Br
reactant | 1-chloro-1-phenyl-4-(4-(3,5-difluoro-4-difluoromethoxyphenyl)butyl)-1-silacyclohexane | 0.1 mol, 44.5 g | Cl[Si]1(CCC(CC1)CCCCC1=CC(=C(C(=C1)F)OC(F)F)F)C1=CC=CC=C1 | C22H25ClF4OSi
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 0.13 mols, 50 ml | C1CCOC1 | C4H8O
product | 4-(4-(3,5-difluoro-4-difluoromethoxyphenyl)butyl)-1-phenyl-1-propyl-1-silacyclohexane | FC=1C=C(C=C(C1OC(F)F)F)CCCCC1CC[Si](CC1)(CCC)C1=CC=CC=C1 | C25H32F4OSi
